Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Blood per rectum
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with h/o diverticulosis (dx'd in sigmoid colon and distal 
descending colon on ___ colonoscopy that was otherwise 
unremarkable) presents with recurrent episodes of maroon blood 
per rectum. He was in his USOH until last night on ___ when he 
had his first episode of bleeding with BM. He says most of the 
blood was a maroon, deep red that was darker than the spots of 
bright red blood he sometimes had with bowel movements. The 
blood was mixed into the stool and also coated parts of it. 
Since last night, he has had 5 BM with this blood. During the 
first few episodes, he noted that he had soreness in his 
back/flank muscles (not deep pain). Previously, he had an 
episode of painless BRBPR in ___ lasting 2 days that was 
thought to be diverticulosis vs. internal hemorrhoids but the 
blood at that time was very bright in color. He denies abdominal 
pain nausea, vomiting, hematemesis. He took 2 tablets of 
ibuprophen twice last week but typically does not take any 
NSAIDS. He has no history of PUD in the past, but was he was 
placed on protonix temporarily for treatment of Gerd. He does 
have ~8 drinks per weekend. He denies any known history of 
painful external hemorrhoids and has never felt any external 
bumps when wiping. No recent change in diet.

Patient also denies dizziness, chest pain, SOB, dysuria. His 
eyes have been mildly yellow over a decade now but feels well 
and has no RUQ or epigastric pain, no recent weight loss, no 
change in appetite or early satiety. He has some lower extremity 
edema at the end of some work days.

In the ED, initial vitals:  T96.3, 76, 176/96, 17, 100% on RA
 - Exam notable for:  Maroon blood on guaiac exam. 
 - Imaging notable for:  EKG showed ~2mm STE in V1-3, TWI in 
other leads, no chest pain, repeat EKG stable x2. 
 - Labs notable for:  Troponin neg x2
 - Pt given:   He  was given 80mg IV pantoprazole and 1L NS 
bolus. GI saw him in the ED.
 - Vitals prior to transfer:  

On arrival to the floor, pt reports he feels well and his last 
two attempts to go to the bathroom, he only had gas and little 
to no bleeding. Last bleed was around noon at 12:30pm. 
 
Past Medical History:
prediabetic
Lumbar spinal stenosis
Severe OSA
Severe left hip OA
Gerd
Allergic rhinitis

 
Social History:
___
Family History:
Father has CAD, T2DM. Cousin has colon cancer.

 
Physical Exam:
Admission exam:  
Vitals- 97.7, 70, 161/109, 18, 100% on RA
General- Alert, oriented, no acute distress  
HEENT- Sclerae mildly yellow with mild conjunctival injection, 
MMM, no sublingual or palatal jaundice.  
Neck- supple, JVP could not be evaluated due to body habitus.  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding 
GU- no foley. No CVA tenderness, some flank soreness on 
palpation.
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

Discharge exam:  
Vitals- 97.6, 60s-70, 140s-170/80s, 20, 100% on RA
General- Alert, oriented, no acute distress  
HEENT- Sclerae mildly yellow with mild conjunctival injection, 
MMM, no sublingual or palatal jaundice.  
Neck- supple, JVP could not be evaluated due to body habitus.  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft large abdomen, non tender to palpation, bowel 
sounds present.
GU- no foley. No CVA tenderness, some flank soreness on 
palpation.
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

 
Pertinent Results:
Initial labs
___ 07:05AM BLOOD WBC-8.2 RBC-5.30 Hgb-15.7 Hct-46.6 MCV-88 
MCH-29.6 MCHC-33.7# RDW-15.1 RDWSD-46.2 Plt ___
___ 07:05AM BLOOD Neuts-46.2 ___ Monos-8.2 Eos-5.3 
Baso-0.4 Im ___ AbsNeut-3.79 AbsLymp-3.26 AbsMono-0.67 
AbsEos-0.43 AbsBaso-0.03
___ 07:05AM BLOOD ___ PTT-34.4 ___
___ 07:05AM BLOOD Plt ___
___ 07:05AM BLOOD Glucose-137* UreaN-16 Creat-1.0 Na-138 
K-4.0 Cl-105 HCO3-22 AnGap-15
___ 01:35PM BLOOD ALT-23 AST-16 AlkPhos-54 TotBili-0.6
___ 07:05AM BLOOD Calcium-10.2 Phos-4.2 Mg-2.1
___ 01:35PM BLOOD Albumin-4.1
___ 07:05AM BLOOD cTropnT-<0.01
___ 01:35PM BLOOD cTropnT-<0.01
___ 06:05AM BLOOD cTropnT-<0.01

Discharge labs
___ 06:05AM BLOOD WBC-7.4 RBC-4.85 Hgb-14.1 Hct-43.3 MCV-89 
MCH-29.1 MCHC-32.6 RDW-15.3 RDWSD-46.9* Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD Glucose-104* UreaN-12 Creat-1.0 Na-138 
K-4.1 Cl-104 HCO3-22 AnGap-16
___ 06:05AM BLOOD Calcium-9.3 Phos-3.4 Mg-2.1

Imaging: 
EKG:  EKG showed ~2mm STE in V1-3, TWI in other leads, no chest 
pain, repeat EKG stable x2. No EKGs in system for reference.

Micro:
Urine cx ___, NO GROWTH, FINAL.

 
Brief Hospital Course:
___ M with h/o known diverticulosis presents with GIB: 
recurrent episodes of maroon red hematochezia over 24 hours. 
Incidentally found to have EKG changes in the ED (see below).

#Hematochezia: Description of maroon red blood suggests a lower 
GI source such as angiodysplasias vs diverticulosis or internal 
hemorrhoids. The report of darker blood than usual was initially 
concerning for UGI sources although the patient has limited risk 
factors for PUD except perhaps moderate alcohol use; BUN was 
also normal throughout admission. Hgb: 15.7 
->14.5-->14.1-->14.1. Last episode of GIB was 12:30pm on ___ 
pt tolerated PO's and was passing gas prior to discharge; had no 
bowel movements for 24 hours prior to discharge.

# EKG changes: Asymtompatic. ST elevations and TWI were 
initially concerning for STEMI in the ER but EKGS were stable x3 
and troponins were negx3. Likely non-ischemic ST elevations and 
T wave inversions related to LVH. No old EKGs in system for 
comparison. F/u EKG on day after admission remained unchanged. 
Continue to follow as outpatient.

#HTN: BP elevated during this admission to ~160s/80s; pt not 
treated for hypertension as outpatient. Follow-up as outpatient.

TRANSITIONAL ISSUES
[ ] Recheck BP as outpatient, consider starting 
dietary/lifestyle changes or meds
[ ] Outpatient colonoscopy (scheduled with ___. ___
[ ] Outpatient PCP, GI appointments
[ ] Low threshold for repeat EKG/work-up if patient has any sxs 
of ACS given EKG with likely LVH changes (ST elevations and 
TWI's) as inpatient. 

# CODE STATUS: Full code - confirmed
# CONTACT:  Wife: ___, ___
 
___ on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lower GI Bleed
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were recently admitted to ___. You came to the hospital 
because you had bleeding with multiple bowel movements. During 
this hospitalization, your bleeding stopped and bowel movements 
slowed. Your labs during this time showed that your level of red 
blood cells remained at a normal level throughout. 

Given that you stopped bleeding and your bleeding is likely from 
a lower gastrointestinal source (such as from the colon), and so 
we did not put a scope down your throat to look into your 
stomach. 

You can follow-up with your primary care doctor, your outpatient 
gastroenterologist (Dr. ___ and Dr. ___ a 
colonoscopy (see your appointment times below).

If you have any further bleeding with your bowel movements, 
please come back to the hospital. Also return to the emergency 
department if you feel weak, dizzy, short of breath or have 
chest pain. 

Thank you for choosing ___. We wish you the very best.

Your ___ Team
 
Followup Instructions:
___